US07425551B2
c) N—[(S)-5-(2-Benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2,2-dimethyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide
Using N—[(S)-5-(2-benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2,2-dimethyl-malonamic acid and 2,2,3,3,3-pentafluoropropylamine, the title compound was prepared in the same manner as described for example 1c. White solid (76%). MS: m/e=604(M+H+).

reactant | N—[(S)-5-(2-benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2,2-dimethyl-malonamic acid | C(C1=CC=CC=C1)OCCN1C2=C(C3=C([C@@H](C1=O)NC(C(C(=O)O)(C)C)=O)C=CC=C3)C=CC=C2 | C28H28N2O5
reactant | 2,2,3,3,3-pentafluoropropylamine | FC(CN)(C(F)(F)F)F | C3H4F5N
product | N—[(S)-5-(2-Benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2,2-dimethyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | C(C1=CC=CC=C1)OCCN1C2=C(C3=C([C@@H](C1=O)NC(C(C(=O)NCC(C(F)(F)F)(F)F)(C)C)=O)C=CC=C3)C=CC=C2 | C31H30F5N3O4
